US08049016B2
Synthesis of (R)-4-methyl-2-(4-methyl-2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid with (R)-4-methyl-2-(4-methyl-2-oxo-3-(4-(trifluoromethyl)-benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid, the title compound was obtained as a colorless solid: mp 110-112° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.73 (d, J=8.2 Hz, 2H), 7.56 (d, J=8.2 Hz, 2H), 7.32 (br, 2H), 4.66 (d, J=16.0 Hz, 1H), 4.45 (d, J=16.0 Hz, 1H), 4.21 (t, J=9.6 Hz, 1H), 3.83-3.76 (m, 1H), 3.57 (dd, J=10.2, 6.8 Hz, 1H), 2.46 (s, 3H), 1.22 (d, J=6.2 Hz, 3H); MS (ES+) m/z 399.0 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | (R)-4-methyl-2-(4-methyl-2-oxo-3-(4-(trifluoromethyl)-benzyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N([C@@H](C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C17H16F3N3O3S
product | (R)-4-methyl-2-(4-methyl-2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide | CC=1N=C(SC1C(=O)N)N1C(N([C@@H](C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C17H17F3N4O2S
